US06573286B1
Compound 52, (4R,5R)-4-(4-bromophenyl)-2-(2,6-difluorophenyl)-5-methyl-4,5-dihydro-1,3-oxazole
A 50 mL round bottom flask equipped with a magnetic stirrer, rubber septum, thermocouple, and a reflux condenser was charged with NaBH4 (253 mg, 6.68 mmol) and THF (15 mL). Trifluoroacetic acid (762 mg, 0.52 mL, 6.68 mmol) was slowly added to the NaBH4 suspension via syringe through the rubber septum. Gas evolution occurred and the temperature increased to 27° C. from 23° C. A solution of (1S,2E/Z)-2-(4-bromophenyl)-2-(methoxyimino)-1-methylethyl acetate (500 mg, 1.67 mmol) in THF (5 mL) was slowly added to the reaction mixture. The reaction mixture was heated to 60° C. for 8 hours and then cooled to 25° C. The pH was adjusted to <3 by the careful addition of conc. HCl to neutralize the remaining NaBH4. The pH was adjusted to >9 with 50% aq. NaOH. Water (50 mL) and dichloromethane (50 mL) were added and the phases were separated. The aqueous layer was extracted with dichloromethane (3×20 mL). The combined organic extracts were washed with brine (20 mL), dried over sodium sulfate, filtered, and concentrated under reduced pressure to give crude amino alcohol, (2S)-1-amino-1-(4-bromophenyl)propan-2-ol, (382 mg) as a waxy low-melting solid. A 50 mL round bottom flask equipped with a stir bar, thermocouple, and a reflux condenser was charged with the crude (2S)-1-amino-1-(4-bromophenyl)propan-2-ol from above (382 mg, 1.66 mmol), triethylamine (171 mg, 0.23 mL, 1.69 mmol) and THF (10 mL). The reaction mixture was cooled to 10° C. 2,6-Difluorobenzoyl chloride (295 mg, 1.67 mmol) was added to the THF solution keeping the temperature <30° C. The reaction mixture was stirred at 25-30° C. for 2 hours. Dichloromethane (40 mL) and water (60 mL) were added and the phases were separated. The aqueous layer was extracted with dichloromethane (2×20 mL). The combined organic extracts were washed with aq. 0.5 N HCl (50 mL) and brine (50 mL), dried over sodium sulfate, filtered, and concentrated under reduced pressure. The crude amide intermediate was placed in a 50 mL round bottom flask equipped with a stir bar, thermocouple, and a reflux condenser and was charged with dichloromethane (25 mL). The reaction mixture was cooled to −78° C. (Diethylamino)sulfur trifluoride (269 mg, 0.22 mL, 1.67 mmol) was added to the dichloromethane solution keeping the temperature <−70° C. The reaction mixtured was allowed to warm to 25° C. while stirring over 16 hours. The reaction mixture was poured into 50 g ice containing conc. ammonium hydroxide (5 mL). The phases were separated, and the aqueous layer was extracted with dichloromethane (2×50 mL). The combined organic extracts were washed with brine (50 mL), dried over sodium sulfate, filtered, and concentrated under reduced pressure to give crude product as a mixture of diastereomers. Column chromatography gave two products (100 mg of (4R,5R) as an oil and 100 mg of (4R,5S) as an oil, 34% overall yield for the combined isomers over the three steps).

reactant | (2S)-1-amino-1-(4-bromophenyl)propan-2-ol | NC([C@H](C)O)C1=CC=C(C=C1)Br | C9H12BrNO
reactant | triethylamine | 1.69 mmol, 0.23 mL, 171 mg | C(C)N(CC)CC | C6H15N
reactant | 2,6-Difluorobenzoyl chloride | 1.67 mmol, 295 mg | FC1=C(C(=O)Cl)C(=CC=C1)F | C7H3ClF2O
reactant | (Diethylamino)sulfur trifluoride | 1.67 mmol, 0.22 mL, 269 mg | C(C)N(CC)S(F)(F)F | C4H10F3NS
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | 60 mL | O | H2O
solvent | Dichloromethane | 40 mL | ClCCl | CH2Cl2
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (4R,5R)-4-(4-bromophenyl)-2-(2,6-difluorophenyl)-5-methyl-4,5-dihydro-1,3-oxazole | BrC1=CC=C(C=C1)[C@H]1N=C(O[C@@H]1C)C1=C(C=CC=C1F)F | C16H12BrF2NO
